US04724236
5,11-Dihydro-11-[[N-methyl(2-propynyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Analogously to Example C, using 27.3 g (0.1 mol) of 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 7.0 g (0.1 mol) of N-methyl-propargylamine, 27 g (88% of theory) of the desired compound are obtained.

reactant | 11-chlorocarbonyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.1 mol, 27.3 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | N-methyl-propargylamine | 0.1 mol, 7.0 g | CNCC#C | C4H7N
product | 5,11-Dihydro-11-[[N-methyl(2-propynyl)amino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | CN(C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC#C | C17H14N4O2
